US09403810B2
Step 2: Ethyl 4-methyl-5-(6-methyl-3,6-dihydro-2H-pyran-2-yl)isoxazole-3-carboxylate
A solution of ethyl 5-(1-hydroxybut-3-en-1-yl)-4-methylisoxazole-3-carboxylate (35 mg, 0.155 mmol) in DCM (1 mL) was treated with acetaldehyde (8.72 μl, 0.155 mmol) and the reaction mixture was cooled to 0° C. A solution of TMSOTf (80.4 μL, 0.465 mmol) in DCM (1.5 mL) cooled to 0° C. was added and the reaction mixture was stirred at 0° C. for 30 minutes and at room temperature overnight. To the resulting mixture was added a saturated solution of ammonium chloride (aq) (2 mL) and this was extracted with DCM (×3). The combined organic extracts were passed through a phase separating cartridge and the eluent was concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-100% EtOAc in iso-hexane afforded the title compound;

reactant | ethyl 5-(1-hydroxybut-3-en-1-yl)-4-methylisoxazole-3-carboxylate | 0.155 mmol, 35 mg | OC(CC=C)C1=C(C(=NO1)C(=O)OCC)C | C11H15NO4
reactant | acetaldehyde | 0.155 mmol, 8.72 μl | C(C)=O | C2H4O
reactant | TMSOTf | 0.465 mmol, 80.4 μL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-methyl-5-(6-methyl-3,6-dihydro-2H-pyran-2-yl)isoxazole-3-carboxylate | CC=1C(=NOC1C1OC(C=CC1)C)C(=O)OCC | C13H17NO4
